US03975388
a. 3-(2,4 -Diethoxybenzoyl)propionic acid
A mixture of m-diethoxybenzene (22 g.) and succinic anhydride (15 g.) was dissolved in 1,2 -dichloroethane and the resultant solution was stirred and treated with powdered aluminum chloride (30 g.), added gradually during 1 hour with external cooling to keep the reaction temperature at 10°C. The reaction mixture was stirred for 1 hour further, poured into water and the solvent was boiled off. The remaining oily suspension crystallized on stirring and cooling and the solid was collected and dried (Yield 15.5 g.). It has m.p. 139°-141°C after crystallisation from toluene.

reactant | m-diethoxybenzene | 22 g | C(C)OC1=CC(=CC=C1)OCC | C10H14O2
reactant | succinic anhydride | 15 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | aluminum chloride | 30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | 1,2 -dichloroethane | ClCCCl | C2H4Cl2
product | 3-(2,4 -Diethoxybenzoyl)propionic acid | C(C)OC1=C(C(=O)CCC(=O)O)C=CC(=C1)OCC | C14H18O5
